US05627204
336.0 g of potassium t-butoxide was suspended in 2 l of toluene. Under cooling on ice, 196.0 g of 2'-hyroxy-4',6'-dimethoxyacetophenone and 2 l of toluene solution of 72.0 ml carbon sulfide were added dropwise to the solution. The mixture was stirred over 20 hours at room temperature, and 7 l of water was added in order to extract the toluene layer. This toluene solution was adjusted to pH 4-5 by addition of 800 ml of 10% aqueous sulfuric acid solution and was then stirred for 5 hours at room temperature. Subsequently, the solution was allowed to stand overnight. The resulting yellow crystals were collected by filtration under reduced pressure, sufficiently washed with water, and dried at 50° C. for 3 days under reduced pressure, whereby crude 4-hydroxy-5,7-dimethoxychromene-2-thion, 160.0 g, was obtained. 160.0 g of 4-hydroxy-5,7-dimethoxychromene-2-thion and 110.4 g of potassium carbonate were suspended in 4.8 l of water. 125.0 ml methyl iodide was added to the mixture at room temperature, followed by stirring for 2.5 hours. The resulting crystals were collected by filtration under reduced pressure, sufficiently washed with water, and dried at 60 C. under reduced pressure, whereby crude 5,7-dimethoxy-2-methylthiochromone, 146.8 g, was obtained. 146.8 g of 5,7-dimethoxy-2-methylthiochromone was suspended in 3 l of methanol. Under cooling on ice, 1.5 l aqueous solution of 252.2 g oxone was added thereto, followed by stirring for 3 hours at room temperature. 4 l of water was added to the reaction solution. The product was extracted twice with dichloromethane (4 l and 2 l, respectively), and the resulting organic layer was washed with saturated salt water and dried over sodium sulfate anhydride. The solvent was distilled out under reduced pressure. The crude product was subjected to recrystallization from 8 l methanol, whereby 5,7-dimethoxy-2-methylsulfinylchromone (Intermediate (1)), 91.5 g, was obtained.

reactant | potassium t-butoxide | 336.0 g | CC(C)([O-])C.[K+]
reactant | 2'-hyroxy-4',6'-dimethoxyacetophenone | 196.0 g | OC1=C(C(=CC(=C1)OC)OC)C(C)=O | C10H12O4
reactant | carbon sulfide | 72.0 ml | [C]=S | CS
reactant | 4-hydroxy-5,7-dimethoxychromene-2-thion | 160.0 g | OC1=CC(OC2=CC(=CC(=C12)OC)OC)=S | C11H10O4S
reactant | potassium carbonate | 110.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 125.0 ml | CI | CH3I
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
solvent | water | 4.8 l | O | H2O
solvent | water | 7 l | O | H2O
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
product | 5,7-dimethoxy-2-methylthiochromone | COC1=C2C(C=C(OC2=CC(=C1)OC)C)=S | C12H12O3S
